US07317124B2
c) 2-Bromo-6-chloro-4-pentafluorosulfanylphenol
5.30 g of 2-chloro-1-methoxy-4-pentafluorosulfanylbenzene were dissolved in 150 ml of CHCl3 and admixed with 4.73 g of bromine and 638 mg of FeBr2. The mixture was stirred at RT for 18 hours, then admixed with a further 200 mg of FeBr2, stirred at RT for 6 hours and then admixed with a further 300 mg of FeBr2, stirred at RT for 2 hours and left to stand at RT for 18 hours. The reaction mixture was then poured onto 300 ml of a saturated aqueous Na2SO3 solution and extracted with 300 ml of CH2Cl2. The organic phase was then washed with 100 ml of water and dried over Na2SO4, and the solvent was removed under reduced pressure. 4.20 g of a colorless oil were obtained which was reacted further without purification.

reactant | 2-chloro-1-methoxy-4-pentafluorosulfanylbenzene | 5.30 g | ClC1=C(C=CC(=C1)S(F)(F)(F)(F)F)OC | C7H6ClF5OS
reactant | bromine | 4.73 g | BrBr | Br2
reactant | Na2SO3 | 300 ml | [O-]S(=O)[O-].[Na+].[Na+]
solvent | CHCl3 | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Bromo-6-chloro-4-pentafluorosulfanylphenol | 4.20 g | BrC1=C(C(=CC(=C1)S(F)(F)(F)(F)F)Cl)O | C6H3BrClF5OS
